US04518597
6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-5,7-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[4-(3,4-dichloro-phenylmercapto)-butoxy]-5,7-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[4-(3,4-dichloro-phenylmercapto)-butoxy]-5,7-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCOC=1C(=CC2=C(COC(N2)=O)C1C)C | C20H21Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-5,7-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC=1C(=CC2=C(COC(N2)=O)C1C)C | C20H21Cl2NO4S
